US04331666
To a stirred solution of 3-acetoxymethyl-7-[2-(2-tritylamino-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid (0.697 g; 0.001 mole) in anhydrous acetonitrile (50 ml), 8-amino-6-mercaptotetrazolo[1,5-b]pyridazine (0.336 g; 0.002 mole) was added and the resulting slurry was refluxed under a slow stream of nitrogen for 24 hours. Another portion of the mercapto compound (0.168 g; 0.001 mole) was added, and after further 16 hours of stirring at the reflux temperature, the mixture was cooled, the undissolved matter (unreacted mercapto compound) filtered off, the acetonitrile solution evaporated to dryness, the resulting foam taken up in warm methylene chloride (5 ml) and diethyl ether added (25 ml). The resulting white precipitate was collected by filtration and washed with a small amount of ethyl acetate and then with diethyl ether, thus giving 0.650 g of 3-[(8-amino-6-tetrazolo[1,5-b]pyridazinyl)-thiomethyl]-7-[2-(2-tritylamino-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn-isomer). This material was reacted with 50% aqueous formic acid, as described in Example 1, thus giving the title product, which was shown by T.L.C., I.R. and NMR to be identical to the product prepared in Example 1.

reactant | 3-acetoxymethyl-7-[2-(2-tritylamino-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid | 0.001 mole, 0.697 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=NOC)C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C35H31N5O7S2
reactant | 8-amino-6-mercaptotetrazolo[1,5-b]pyridazine | 0.002 mole, 0.336 g | NC=1C=2N(N=C(C1)S)N=NN2 | C4H4N6S
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 3-[(8-amino-6-tetrazolo[1,5-b]pyridazinyl)-thiomethyl]-7-[2-(2-tritylamino-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid | 0.650 g | NC=1C=2N(N=C(C1)SCC=1CS[C@H]3N(C1C(=O)O)C(C3NC(C(=NOC)C=3N=C(SC3)NC(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)=O)=O)N=NN2 | C37H31N11O5S3
